data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1c(F)cc(NN=CCc2ccccc2)cc1Cl.Cl[Zn]Cl", "products": "COc1c(F)cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl"}, {"reactants": "COc1c(F)cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl", "products": "COc1c(F)cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl.[H+]"}, {"reactants": "COc1c(F)cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(F)cccc2Cl)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(F)cccc2Cl)C(=N)C=C1", "products": "COc1c(Cl)cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1F"}, {"reactants": "COc1c(Cl)cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1F", "products": "COc1c(Cl)cc2c(c1F)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1c(Cl)cc2c(c1F)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1c(Cl)cc2c(c1F)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1c(Cl)cc2c(c1F)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1c(Cl)cc2c(c1F)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1c(Cl)cc2c(c1F)C(c1ccccc1)C=[NH+]2", "products": "COc1c(Cl)cc2[nH]cc(-c3ccccc3)c2c1F.[H+]"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)C)c([Si](C)(C)CCl)c(C)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CCl)c(C)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)CCl)c(C)c1=C", "products": "Cc1c2c(cc([Si](C)(C)C)c1[Si](C)(C)CCl)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "CCc1ccccc1C(=O)C1C2CCC1C2", "products": "CCc1ccccc1[C]([O])C1C2CCC1C2"}, {"reactants": "CCc1ccccc1[C]([O])C1C2CCC1C2", "products": "CCc1ccccc1C([O])=CC1C[CH]CC1"}, {"reactants": "CCc1ccccc1C([O])=CC1C[CH]CC1", "products": "CCc1ccccc1C(O)=CC1C=CCC1"}, {"reactants": "CCc1ccccc1C(O)=CC1C=CCC1", "products": "CCc1ccccc1C(=O)CC1C=CCC1"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(F)c(Cl)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(F)c(Cl)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(F)c(Cl)c1)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2ccc(F)c(Cl)c2)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2ccc(F)c(Cl)c2)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2ccc(F)c(Cl)c2)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2ccc(F)c(Cl)c2)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2ccc(F)c(Cl)c2)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2ccc(F)c(Cl)c2)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2ccc(F)c(Cl)c2)O1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1c(C)ccc(N(C)C(=O)C2=CCCC2)c1Br.[Pd]", "products": "COc1c(C)ccc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]"}, {"reactants": "COc1c(C)ccc(N(C)C(=O)C2=CCCC2)[c]1[Pd][Br]", "products": "COc1c(C)ccc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "COc1c(C)ccc2c1N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "COc1c(C)ccc2c1N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CCOc1ccccc1C1(O)C(=O)CC2CCC1(C)C2(C)C.[H+]", "products": "CCOc1ccccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C"}, {"reactants": "CCOc1ccccc1C1([OH2+])C(=O)CC2CCC1(C)C2(C)C", "products": "CCOc1ccccc1[C+]1C(=O)CC2CCC1(C)C2(C)C.O"}, {"reactants": "CCOc1ccccc1[C+]1C(=O)CC2CCC1(C)C2(C)C", "products": "CCOc1ccccc1C12CCC(CC1=O)C(C)(C)[C+]2C"}, {"reactants": "CCOc1ccccc1C12CCC(CC1=O)C(C)(C)[C+]2C", "products": "CCOc1ccccc1C1=C(C)C(C)(C)C(C#[O+])CC1"}, {"reactants": "CCOc1ccccc1C1=C(C)C(C)(C)C(C#[O+])CC1.O", "products": "CCOc1ccccc1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1"}, {"reactants": "CCOc1ccccc1C1=C(C)C(C)(C)C(C(=O)[OH2+])CC1", "products": "CCOc1ccccc1C1CCC(C(=O)O)C(C)(C)[C+]1C"}, {"reactants": "CCOc1ccccc1C1CCC(C(=O)O)C(C)(C)[C+]1C", "products": "CCOc1ccccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C"}, {"reactants": "CCOc1ccccc1C1CCC2C(=O)[OH+]C1(C)C2(C)C", "products": "CCOc1ccccc1C1CCC2C(=O)OC1(C)C2(C)C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(Br)C2CC1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(Br)CC1CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(Br)CC1CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(Br)CC1CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(Br)CC1CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(Br)CC1CC(C(=O)OC)C(=O)C2"}]}
